US07074817B2
5-Bromo-1-(4-methylbenzyl)-1H-indole
NaH (60%, 2.53 g, 63.1 mmol) was added portionwise to a stirring solution of 5-bromoindole (8.25 g, 42.1 mmol) in DMF (80 mL) at 0° C. under a nitrogen atmosphere over a period of 10 min. The mixture was then warmed up to room temperature. After the reaction mixture was stirred at room temperature for 1 hour, 4-methylbenzyl bromide (12.0 g, 63.1 mmol) was added and the mixture was stirred at room temperature overnight. The reaction was quenched with aqueous ammonium chloride and diluted with water. The aqueous phase was extracted with ethyl acetate. The organic extract was washed with water and brine, then dried over anhydrous magnesium sulfate. This mixture was concentrated to give a crude oil (14.1 g, 71%). Crystallization from petroleum ether afforded the title compound as a white solid, m.p: 56-57° C. Mass spectrum (APCI, [M+H]+) m/z 300. 1HNMR (400 MHz, DMSO-d6): δ 7.73 (s, 1H), 7.53 (s, 1H), 7.40 (d, 1H, J=8.9 Hz), 7.18 (d, 1H, J=10.5 Hz), 7.09 (d, 2H, J=8.2 Hz), 7.07 (d, 2H, J=8.2 Hz), 6.45 (s, 1H), 5.35 (s, 2H), and 2.22 ppm (s, 3H).

reactant | NaH | 63.1 mmol, 2.53 g | [H-].[Na+]
reactant | 5-bromoindole | 42.1 mmol, 8.25 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4-methylbenzyl bromide | 63.1 mmol, 12.0 g | CC1=CC=C(CBr)C=C1 | C8H9Br
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1-(4-methylbenzyl)-1H-indole | BrC=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)C | C16H14BrN
